US08207167B2
3-(4-Bromophenylsulfonamido)benzoyl chloride (ABD833d)
A suspension of 3-(4-bromophenylsulfonamido)benzoic acid (2.30 g, 6.46 mmol) in DCM (50 mL) was stirred and cooled under argon to 0° C. Oxalyl chloride (676 μL, 7.11 mmol) was then added dropwise via a syringe, followed by DMF (50 μL). The resulting solution was then stirred overnight, allowing the reaction mixture to warm room temperature. The solution was used without further purification.

reactant | 3-(4-bromophenylsulfonamido)benzoic acid | 6.46 mmol, 2.30 g | BrC1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)O)C=CC1 | C13H10BrNO4S
reactant | Oxalyl chloride | 7.11 mmol, 676 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 50 μL | CN(C)C=O | C3H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-Bromophenylsulfonamido)benzoyl chloride | BrC1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)Cl)C=CC1 | C13H9BrClNO3S
